** sch_path: /foss/designs/SAR-ADC-using-Sky130-PDK/xschem/CDAC8.sch
.subckt CDAC8 OUT b7 b6 b5 b4 b3 b2 b1 b0 GND VDD
*.PININFO b0:I b1:I b2:I b3:I b4:I b5:I b6:I b7:I VDD:I GND:I OUT:O
x1 VDD GND z0 b0 VDD GND switch
x2 VDD GND z1 b1 VDD GND switch
x3 VDD GND z2 b2 VDD GND switch
x4 VDD GND z3 b3 VDD GND switch
x5 VDD GND z4 b4 VDD GND switch
x6 VDD GND z5 b5 VDD GND switch
x7 VDD GND z6 b6 VDD GND switch
x8 VDD GND z7 b7 VDD GND switch
XC2 OUT z0 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC1 OUT z1 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC9 OUT z1 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC3 OUT z2 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC4 OUT z2 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC5 OUT z2 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC6 OUT z2 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC7 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC8 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC10 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC11 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC12 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC13 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC14 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC15 OUT z3 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC16 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC17 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC18 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC19 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC20 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC21 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC22 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC23 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC24 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC25 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC26 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC27 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC28 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC29 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC30 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC31 OUT z4 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC32 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC33 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC34 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC35 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC36 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC37 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC38 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC39 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC40 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC41 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC42 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC43 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC44 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC45 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC46 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC47 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC48 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC49 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC50 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC51 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC52 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC53 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC54 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC55 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC56 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC57 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC58 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC59 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC60 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC61 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC62 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC63 OUT z5 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC64 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC65 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC66 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC67 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC68 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC69 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC70 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC71 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC72 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC73 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC74 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC75 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC76 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC77 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC78 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC79 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC80 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC81 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC82 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC83 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC84 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC85 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC86 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC87 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC88 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC89 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC90 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC91 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC92 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC93 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC94 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC95 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC96 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC97 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC98 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC99 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC100 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC101 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC102 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC103 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC104 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC105 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC106 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC107 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC108 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC109 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC110 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC111 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC112 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC113 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC114 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC115 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC116 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC117 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC118 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC119 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC120 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC121 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC122 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC123 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC124 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC125 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC126 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC127 OUT z6 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC128 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC129 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC130 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC131 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC132 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC133 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC134 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC135 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC136 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC137 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC138 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC139 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC140 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC141 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC142 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC143 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC144 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC145 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC146 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC147 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC148 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC149 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC150 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC151 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC152 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC153 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC154 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC155 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC156 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC157 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC158 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC159 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC160 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC161 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC162 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC163 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC164 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC165 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC166 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC167 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC168 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC169 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC170 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC171 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC172 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC173 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC174 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC175 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC176 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC177 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC178 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC179 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC180 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC181 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC182 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC183 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC184 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC185 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC186 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC187 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC188 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC189 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC190 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC191 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC192 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC193 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC194 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC195 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC196 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC197 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC198 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC199 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC200 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC201 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC202 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC203 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC204 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC205 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC206 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC207 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC208 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC209 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC210 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC211 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC212 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC213 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC214 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC215 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC216 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC217 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC218 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC219 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC220 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC221 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC222 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC223 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC224 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC225 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC226 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC227 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC228 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC229 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC230 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC231 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC232 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC233 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC234 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC235 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC236 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC237 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC238 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC239 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC240 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC241 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC242 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC243 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC244 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC245 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC246 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC247 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC248 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC249 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC250 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC251 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC252 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC253 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC254 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
XC255 OUT z7 sky130_fd_pr__cap_mim_m3_2 W=22.7 L=2 m=1
.ends

* expanding   symbol:  /foss/designs/SAR-ADC-using-Sky130-PDK/xschem/switch.sym # of pins=6
** sym_path: /foss/designs/SAR-ADC-using-Sky130-PDK/xschem/switch.sym
** sch_path: /foss/designs/SAR-ADC-using-Sky130-PDK/xschem/switch.sch
.subckt switch B A Z Vref VDD GND
*.PININFO Vref:I Z:B A:B B:B VDD:I GND:I
XM2 Z Vref B GND sky130_fd_pr__nfet_g5v0d10v5 L=1.44 W=1.44 nf=1 m=1
XM1 B net1 Z VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.720 W=1.44 nf=1 m=1
XM3 A Vref Z VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.720 W=1.44 nf=1 m=1
XM5 net1 Vref VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.720 W=1.44 nf=1 m=1
XM4 Z net1 A GND sky130_fd_pr__nfet_g5v0d10v5 L=1.44 W=1.44 nf=1 m=1
XM6 net1 Vref GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1.44 W=1.44 nf=1 m=1
.ends

.end
